US04493884
154.0 g of potassium 2,4-dihydroxybenzoate and 122.3 g of vinylbenzyl chloride were added to 500 ml of dimethylsulfoxide, and stirred at 40° C. for 3 days to react. Then, 1,000 ml of water was added thereto, and the resulting mixture was extracted with 500 ml of ethyl acetate. After distilling off ethyl acetate, recrystallization of the residue from a benzene-hexane mixture solvent yielded 140 g of vinylbenzyl 2,4-dihydroxybenzoate (m.p. 52°-54° C.).

reactant | potassium 2,4-dihydroxybenzoate | 154.0 g | OC1=C(C(=O)[O-])C=CC(=C1)O.[K+]
reactant | vinylbenzyl chloride | 122.3 g | C(=C)C(C1=CC=CC=C1)Cl | C9H9Cl
reactant | dimethylsulfoxide | 500 ml | CS(=O)C | C2H6OS
solvent | water | 1,000 ml | O | H2O
product | vinylbenzyl 2,4-dihydroxybenzoate | 140 g | OC1=C(C(=O)OC(C2=CC=CC=C2)C=C)C=CC(=C1)O | C16H14O4
